* SKY130 Two-Stage Miller OTA
* PMOS input pair, NMOS active load, NMOS second stage

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 1.8
Vss vss 0 0

* Input stimulus
Vdiff diff 0 DC 0 AC 1
Vcm cm 0 DC 0.9
Einp inp 0 POLY(2) cm 0 diff 0 0 1 0.5
Einm inm 0 POLY(2) cm 0 diff 0 0 1 -0.5

* === FIRST STAGE: PMOS diff pair + NMOS current mirror load ===

* Tail current source (PMOS)
XM5 tail biasp vdd vdd sky130_fd_pr__pfet_01v8 W={W5}u L={L5}u nf=1

* Differential pair (PMOS)
XM1 n1 inp tail vdd sky130_fd_pr__pfet_01v8 W={W1}u L={L1}u nf=1
XM2 n2 inm tail vdd sky130_fd_pr__pfet_01v8 W={W1}u L={L1}u nf=1

* Active load (NMOS current mirror)
XM3 n1 n1 vss vss sky130_fd_pr__nfet_01v8 W={W3}u L={L3}u nf=1
XM4 n2 n1 vss vss sky130_fd_pr__nfet_01v8 W={W3}u L={L3}u nf=1

* === SECOND STAGE: NMOS common-source + PMOS load ===

XM6 out n2 vss vss sky130_fd_pr__nfet_01v8 W={W6}u L={L6}u nf=1
XM7 out biasp vdd vdd sky130_fd_pr__pfet_01v8 W={W7}u L={L7}u nf=1

* === Miller compensation (series Rc for RHP zero cancellation) ===
Cc out n2rc {Cc}p
Rc n2rc n2 {Rc}

* === Bias generation ===
* Current sink sets biasp: current flows VDD->XMbp->biasp->Ibias->VSS
Ibias biasp vss {Ibias}
XMbp biasp biasp vdd vdd sky130_fd_pr__pfet_01v8 W={Wbias}u L={Lbias}u nf=1

* === Load ===
CL out 0 5p

* === Measurements ===
.control
* Operating point
op

* Power measurement (scalar from OP, must be before AC)
let pwr = abs(v(vdd) * i(Vdd)) * 1e6
echo "RESULT_POWER_UW" $&pwr

* AC analysis — differential
ac dec 100 1 100Meg
* Export complex v(out) for proper phase extraction in Python
wrdata ac_data v(out)

* DC gain
meas ac dc_gain_db find vdb(out) at=10

* GBW (0dB crossing)
meas ac gbw_hz when vdb(out)=0

* Phase margin from vp() — approximate for DE ranking
meas ac phase_at_gbw find vp(out) when vdb(out)=0
let pm_approx = 180 + phase_at_gbw
echo "RESULT_PHASE_MARGIN_DEG" $&pm_approx

echo "RESULT_DC_GAIN_DB" $&dc_gain_db
echo "RESULT_GBW_HZ" $&gbw_hz

* DC sweep for output swing
dc Vdiff -0.9 0.9 0.001
meas dc vout_max max v(out)
meas dc vout_min min v(out)
let swing = vout_max - vout_min
echo "RESULT_OUTPUT_SWING_V" $&swing

* CMRR: switch to common-mode stimulus
alter Vdiff = 0
alter @Vdiff[mag] = 0
alter Vcm dc = 0.9
alter @Vcm[mag] = 1
ac dec 100 1 100Meg
meas ac cm_gain_db find vdb(out) at=10
let cmrr = dc_gain_db - cm_gain_db
echo "RESULT_CMRR_DB" $&cmrr

echo "RESULT_DONE"
.endc

.end
